US06794403B2
2-(4-Hydroxyphenyl)-7-methoxy-1,3-benzoxazol-5-ol
A mixture of 7-bromo-2-(4-hydroxyphenyl)-1,3-benzoxazol-5-ol (100 mg, 0.33 mmol), and copper(I) bromide (56 mg, 0.39 mmol) in anhydrous N,N dimethylformamide (1.5 mL) was stirred with freshly prepared sodium methoxide (15 wt % in methanol, 1 ml) and heated to 120° C. for 4 h. The mixture was cooled and diluted with HCl (1N, 5 ml). Isolation of the crude product with ethyl acetate followed by flash chromatography (40%-50% EtOAc/petroleum ether) gave the title compound as an off-white solid (50 mg, 60% yield, mp 225-228° C.); MS m/e 258 (M+H)+.

reactant | 7-bromo-2-(4-hydroxyphenyl)-1,3-benzoxazol-5-ol | 0.33 mmol, 100 mg | BrC1=CC(=CC=2N=C(OC21)C2=CC=C(C=C2)O)O | C13H8BrNO3
reactant | sodium methoxide | 1 ml | C[O-].[Na+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | N,N dimethylformamide | 1.5 mL | CN(C=O)C | C3H7NO
solvent | HCl | 1N, 5 ml | Cl | ClH
catalyst | copper(I) bromide | 0.39 mmol, 56 mg | [Cu]Br
product | 2-(4-Hydroxyphenyl)-7-methoxy-1,3-benzoxazol-5-ol | 50 mg, 60% yield | OC1=CC=C(C=C1)C=1OC2=C(N1)C=C(C=C2OC)O | C14H11NO4
